US08183231B2
[(R)-3-((S)2-Amino-3-carbamoyl-propionylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid
The title compound was prepared substantially following the procedures as set forth in Step 4, Example 1, Method A, and employing ((R)-3-Amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride and N-Cbz-L-asparagine-OH as the starting materials. Subsequent hydrogenation of the resulting product in accordance with the procedures of Step 5, Example 1, Method B, and RP-HPLC purification yielded the title compound. 1H NMR (CD3OD, 300 MHz): δ 4.26-4.13 (m, 1H), 4.12-3.98 (m, 1H), 3.42-3.32 (m, 2H), 2.98-2.71 (m, 2H), 1.93 (br.d, 2H), 1.84-1.58 (m, 6H), 1.51 (dd, 2H), 1.42-1.15 (m, 3H), 1.13-0.94 (m, 2H). 31P NMR (CD3OD, 300 MHz): δ 40.16. LCMS m/z: [M+H]+=350.3.

reactant | ((R)-3-Amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
reactant | N-Cbz-L-asparagine-OH | C1=CC=C(C=C1)COC(=O)N[C@@H](CC(=O)N)C(=O)O | C12H14N2O5
product | [(R)-3-((S)2-Amino-3-carbamoyl-propionylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid | N[C@H](C(=O)NC[C@H](CP(O)(=O)CC1CCCCC1)O)CC(N)=O | C14H28N3O5P
